US08202858B2
4-Aminomethyl-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide
A solution of N-(4-chloro-phenyl)-4-cyano-3,N-dimethyl-benzamide from Example E115.1 (5.1 g, 17.9 mmol) in methanol (250 ml) was treated with cobalt(II) chloride hexahydrate (8.4 g, 35.8 mmol). The mixture was stirred for 15 min at room temperature then cooled down to 0° C. and sodium borohydride (6.7 g, 179 mmol) was added portionwise. The mixture was stirred for 1 h at room temperature, filtered through Celite® filter agent, washed with methanol and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 1% 35% ammonia:10% methanol:89% dichloromethane) to yield the title compound (3.6 g, 70%).

reactant | N-(4-chloro-phenyl)-4-cyano-3,N-dimethyl-benzamide | ClC1=CC=C(C=C1)N(C(C1=CC(=C(C=C1)C#N)C)=O)C | C16H13ClN2O
reactant | sodium borohydride | 179 mmol, 6.7 g | [BH4-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
catalyst | cobalt(II) chloride hexahydrate | 35.8 mmol, 8.4 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 4-Aminomethyl-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide | 3.6 g, 70% | NCC1=C(C=C(C(=O)N(C)C2=CC=C(C=C2)Cl)C=C1)C | C16H17ClN2O
